US04839360
(1)-a) To 19.0 g of methyl 4-(4-chlorobenzoyl)butyrate were added 14.5 g of aniline, 0.6 g of p-toluenesulfonic acid monohydrate and 200 ml of toluene, and the mixture was refluxed with dehydration for 22.5 hours. After removal of the solvent under reduced pressure, 100 ml of methanol and 2.5 g of sodium hydrogencarbonate were added, and the mixture was cooled to -20° C. Subsequently, 6.0 g of sodium borohydride was added portionwise over 1 hour, and the mixture was stirred at -30° to -20° C. for 1 hour and at -20° to -5° C. for 1 hour. The reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate extracts were washed with diluted hydrochloric acid, and aqueous sodium hydrogencarbonate solution and water, and dried, followed by evaporation of the solvent to give 23.7 g of methyl 5-anilino-5-(4-chlorophenyl)pentanoate as a pale brown oily product. Subsequently, to said oily product were added 75 ml of methanol and 100 ml of an aqueous 10% sodium hydroxide solution, and the mixture was heated under reflux for 1 hour. After removal of the solvent, the residue was diluted with 50 ml of water and then ashed with ether. The aqueous layer was adjusted to pH 6 to 7 with hydrochloric acid, extracted with ethyl acetate. The ethyl acetate extract was washed with diluted hydrochloric acid and a saturated aqueous sodium chloride solution, dried, and treated with activated charcoal. After removal of charcoal and the solvent, the residue was recrystallized from isopropyl ether to give 17.8 g of 5-anilino-5-(4-chlorophenyl)pentanoic acid as colorless prisms.

reactant | methyl 4-(4-chlorobenzoyl)butyrate | 19.0 g | ClC1=CC=C(C(=O)CCCC(=O)OC)C=C1 | C12H13ClO3
reactant | aniline | 14.5 g | NC1=CC=CC=C1 | C6H7N
catalyst | p-toluenesulfonic acid monohydrate | 0.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 5-anilino-5-(4-chlorophenyl)pentanoate | 23.7 g | N(C1=CC=CC=C1)C(CCCC(=O)OC)C1=CC=C(C=C1)Cl | C18H20ClNO2
